US07371743B2
(e) 3-(2-chloro-ethoxy)-propionic acid-chloride
Prepared analogously to Example 90c from 3-(2-chloro-ethoxy)-propionic acid and thionyl chloride with DMF.

reactant | 3-(2-chloro-ethoxy)-propionic acid | ClCCOCCC(=O)O | C5H9ClO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2-chloro-ethoxy)-propionic acid-chloride | ClCCOCCC(=O)Cl | C5H8Cl2O2
